US07728030B2
N-[(1R,2S)-1-(3,4-dimethylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-5-methyl-1,3-thiazole-2-carboxamide
5-methyl-1,3-thiazole-2-carboxylic acid (29 mg, 0.2 mmol) was dissolved in NMP (1 mL) together with HATU (76 mg, 0.2 mmol) and DIEA (133 uL, 0.8 mmol). The mixture was stirred in r.t. for 5 min before (1R,2S)-1-(3,4-dimethylphenyl)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)propan-2-amine (58 mg, 0.15 mmol, prepared analogously to Example 6a with corresponding starting material) was added. The reaction mixture was stirred in r.t. overnight before it was evaporated under reduced pressure and purified by semi-prep. HPLC.

reactant | 5-methyl-1,3-thiazole-2-carboxylic acid | 0.2 mmol, 29 mg | CC1=CN=C(S1)C(=O)O | C5H5NO2S
reactant | HATU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.8 mmol, 133 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | (1R,2S)-1-(3,4-dimethylphenyl)-1-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)propan-2-amine | CC=1C=C(C=CC1C)[C@H]([C@H](C)N)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C24H24FN3O
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | N-[(1R,2S)-1-(3,4-dimethylphenyl)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-propan-2-yl]-5-methyl-1,3-thiazole-2-carboxamide | CC=1C=C(C=CC1C)[C@H]([C@H](C)NC(=O)C=1SC(=CN1)C)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C29H27FN4O2S
